US06093731
Nα-[(4-Chloro-1-guanidino-7-isoquinolinyl) sulphonyl]-Nε-tert-butyloxycarbonyl-L-lysine tert-butyl ester (119 mg, 0.20 mmol) was dissolved in EtOAc (10 ml) and saturated with gaseous HCl. After 20 min, the resultant white precipitate was obtained by filtration and recrystallised from EtOH to give Nα-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-L-lysine (13 mg, 0.03 mmol).

reactant | Nα-[(4-Chloro-1-guanidino-7-isoquinolinyl) sulphonyl]-Nε-tert-butyloxycarbonyl-L-lysine tert-butyl ester | 0.20 mmol, 119 mg | C(C)(C)(C)OC([C@@H](NS(=O)(=O)C1=CC=C2C(=CN=C(C2=C1)NC(=N)N)Cl)CCCCNC(=O)OC(C)(C)C)=O | C25H37ClN6O6S
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | HCl | Cl | ClH
product | Nα-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-L-lysine | 0.03 mmol, 13 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N[C@@H](CCCCN)C(=O)O)NC(=N)N | C16H21ClN6O4S
